US09447093B2
3-phenyl-5-(2-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 3-phenyl-5-(2-methoxyphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (374 mg, 0.85 mmol) in methanol (2.3 ml) is added NaOH (260 μl of 2 N solution in water, 0.51 mmol). The mixture is heated at 80° C. for 1 hour and then cooled at room temperature.

reactant | 3-phenyl-5-(2-methoxyphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.85 mmol, 374 mg | C1(=CC=CC=C1)C1=CN(C2=NC=C(C=C21)C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=CC=C2 | C26H20N2O3S
reactant | NaOH | 0.51 mmol, 2 N, 260 μl | [OH-].[Na+]
solvent | methanol | 2.3 ml | CO | CH4O
product | 3-phenyl-5-(2-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridine | C1(=CC=CC=C1)C1=CNC2=NC=C(C=C21)C2=C(C=CC=C2)OC | C20H16N2O
